* C:\Users\user\Desktop\ParkJunho\Draft2.asc
V1 N001 0 10V
XX1 N001 0 NC_01 potentiometer params: R=20k, wiper=0.5

* block symbol definitions
.subckt potentiometer 1 3 2
R1 1 2 {Ra}
R2 2 3 {Rb}
.param Ra=R*(1-w)
.param Rb=R*(w)
.param w=limit(wiper, 0.001, 0.999)
.ends potentiometer

.tran 1m
.backanno
.end
