* C:\Users\user\Desktop\ParkJunho\P60_Signal Detection.asc
V1 Vs2 0 PULSE(0 1 5m 1u 1u 0.3m 100m)
V2 Vs1 0 PULSE(0 12 1m 1u 1u 0.3m 100m)
D1 Vs1 +in 1N4148
R1 +V +in 1Meg
R2 +in 0 47k
C1 +in 0 10nF
R3 +V B 10k
C2 N003 N002 0.01µ
D2 N003 +V 1N4148
R4 +V N003 10k
C3 N006 N002 0.01µ
D3 0 N006 1N4148
R5 N006 0 10k
R6 N008 N009 10k
C4 N008 TP2 0.0047µ
XU1 Vs1 N001 VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU2 N003 N004 VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU3 N006 N007 VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU4 N004 LE VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU5 N007 RST VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU6 N001 N005 N002 VDD 0 CD4011B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU7 N002 B N005 VDD 0 CD4011B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU8 N002 TP2 CLK VDD 0 CD4011B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU9 N009 N010 VCC 0 74HC14 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU10 N010 TP2 VCC 0 74HC14 VCC=5 SPEED=1.0 TRIPDT=1e-9
XU11 Vs2 +in B +V 0 LM358
R7 N008 N010 10k
V3 +V 0 12V
.model D D
.lib C:\Users\user\AppData\Local\LTspice\lib\cmp\standard.dio
.include lm358.txt
.tran 10ms
.include 74HC.lib
.include cd4000.lib
* 15kHz
.backanno
.end
