* C:\Users\user\Desktop\ParkJunho\Ultrasonic Pulse generator.asc
R1 +V N004 2Meg
R2 N004 N008 8.2k
C1 N008 0 0.047µ
C2 N009 0 0.1µ
V1 +V 0 +12V
R4 N001 N002 160k
C3 N002 0 100p
C4 N003 0 0.1µ
XU7 N007 B VCC 0 74HC04 VCC=12 SPEED=1.0 TRIPDT=1e-9
XU8 A B C VCC 0 74HC08 VCC=12 SPEED=1.0 TRIPDT=1e-9
R3 +V N001 50k
XU1 0 N002 A +V N003 N002 N001 +V NE555
XU2 0 N008 N007 +V N009 N008 N004 +V NE555
Rm1 +Tx N011 {Rm}
Lm1 N011 N013 {Lm}
Cm1 N013 -Tx {Cm}
Co1 +Tx -Tx {Co}
Rm2 N006 P001 340
Lm2 N012 N014 48mH
Cm2 P001 N012 300pF
Co2 N006 N014 2150pF
C5 D +Tx {Cc}
XU4 C N005 VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU3 N005 D VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU9 C N010 VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU10 N010 D VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU11 C -Tx VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
XU12 C -Tx VDD 0 CD4049B VDD=12 SPEED=1.0 TRIPDT=5e-9
.tran 100m
* 7
* 6
* 2
* 1
* 5
* 3
* 8
* 4
* 7
* 6
* 2
* 1
* 5
* 3
* 8
* 4
.include 74HC.lib
* 40kHz
* 15Hz
* Ra
* Rb
* C
* Ra
* Rb
* C
* 150k+10k
.include cd4000.lib
* 4584
.param Cc=100n
* .step param Cc list 10n 100n 330n 1000n
* Ultrasonic \nTransmitter
.param Rm=391
.param Lm=73.3mH
.param Cm=234pF
.param Co=2121pF
* .param Rm=\n.param Lm=\n.param Cm=\n.param Co=
* CMOS IC Vcc=+12V
.lib NE555.sub
.backanno
.end
